US07250410B2
7,8-diethoxy-1-ethyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbg.
By replacing 5-(4-bromophenyl)-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaf) in example IIba by 7,8-diethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIag), and MeI by ethyl iodide, and proceeding in the same manner, the abovenamed product is obtained. Yield: 59%. M: 99–102° C. 1H-NMR (CDCl3, 300 MHz): d 1.11 (t, 3H, CH3), 1.36 (t, 3H, CH3), 1.53 (t, 3H, CH3), 3.93 (q, 2H, OCH2), 3.97 (AB system, ?d=0.67, JAB=14.0, 2H, —NCH2), 4.17 (q, 2H, OCH2), 4.28 (AB system, ?d=0.96 JAB=10.0, 2H, CH2), 6.68 (s, 1H Ar), 6.84 (s, 1H Ar), 7.38–7.64 (m, 5H Ar).

reactant | 7,8-diethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C(C)OC=1C(=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1)OCC | C19H20N2O3
reactant | MeI | CI | CH3I
reactant | ethyl iodide | C(C)I | C2H5I
product | 7,8-diethoxy-1-ethyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 59% | C(C)OC=1C(=CC2=C(C(=NCC(N2CC)=O)C2=CC=CC=C2)C1)OCC | C21H24N2O3
